US05001160
In a 5-L round bottomed flask equipped with an overhead stirrer and a pressure equalizing additional funnel was placed 1500 mL of benzene and 1150 g (8.65 mole) of anhydrous aluminum chloride. The reaction vessel was cooled in an ice-salt bath. To this mixture was added very carefully over a 1.5 hour period 920 g (7.7 mole) of cyclobutanecarbonyl chloride. Following the addition, the cooling bath was removed and the mixture allowed to warm to room temperature overnight and cautiously poured onto ice. The phases were separated and the aqueous layer extracted three times with ethyl acetate. The organic layers were combined washed three times with saturated sodium bicarbonate three times with water, and once with brine. The solution was dried over anhydrous magnesium sulfate and the solvent removed under reduced pressure. The residue was distilled to give 1126 g of phenyl cyclobutyl ketone, bp 97°-102° C. at 0.1 mm Hg. NMR (CDCl3) 1.8-2.6 (m, 6 H), 4.0 (q, 1 H), 7.4-7.6 (m, 3 H), 7.8-8.0 (m, 2 H); IR (neat film) 2950, 1675, 1450, 1350, 1225, 960, and 700 cm-1.

reactant | aluminum chloride | 8.65 mole, 1150 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | cyclobutanecarbonyl chloride | 7.7 mole, 920 g | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | benzene | 1500 mL | C1=CC=CC=C1 | C6H6
product | phenyl cyclobutyl ketone | 1126 g | C1(CCC1)C(=O)C1=CC=CC=C1 | C11H12O
